US04596829
A solution of 7-[2-(5-chloro-2-trifluoroacetamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.5 g) and sodium acetate (5.6 g) in water (25 ml) was stirred at ambient temperature for 13 hours. The resultant solution was washed with ethyl acetate and the separated aqueous layer was treated with active-charcoal. And the aqueous layer was adjusted to pH 2.3 with 10% hydrochloric acid. The precipitates were collected by filtration and washed with water. The precipitates were dried under reduced pressure to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.7 g).

reactant | 7-[2-(5-chloro-2-trifluoroacetamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 2.5 g | ClC1=C(N=C(S1)NC(C(F)(F)F)=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O)=NOCC(=O)O | C18H15ClF3N5O8S3
reactant | sodium acetate | 5.6 g | C(C)(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 1.7 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O)=NOCC(=O)O)Cl | C16H16ClN5O7S3
